US07598384B2
2-(4-Methoxy-phenylamino)-7,7-dimethyl-7,8-dihydro-6H-quinolin-5-one
To a solution of 2-chloro-7,7-dimethyl-7,8-dihydro-6H-quinolin-5-one (0.35 g, 1.67 mmol) and 4-methoxyphenylamine (0.267 g, 2.2 mmol) in toluene (2 ml) under an argon atmosphere was added sodium tert-amylate (0.22 g, 2.0 mmol) and bis(tri-tert-butylphosphine)palladium (0.043 g, 0.084 mmol). The mixture was heated at reflux for 8 h. Then it was concentrated under reduced pressure and the residue was purified by column chromatography on silica gel to give the title compound (0.096 g, 19%) as a colorless solid.

reactant | 2-chloro-7,7-dimethyl-7,8-dihydro-6H-quinolin-5-one | 1.67 mmol, 0.35 g | ClC1=NC=2CC(CC(C2C=C1)=O)(C)C | C11H12ClNO
reactant | 4-methoxyphenylamine | 2.2 mmol, 0.267 g | COC1=CC=C(C=C1)N | C7H9NO
reactant | sodium tert-amylate | 2.0 mmol, 0.22 g | CCC(C)(C)[O-].[Na+]
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
catalyst | bis(tri-tert-butylphosphine)palladium | 0.084 mmol, 0.043 g | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
product | 2-(4-Methoxy-phenylamino)-7,7-dimethyl-7,8-dihydro-6H-quinolin-5-one | 0.096 g, 19% | COC1=CC=C(C=C1)NC1=NC=2CC(CC(C2C=C1)=O)(C)C | C18H20N2O2
